US09108957B2
To a solution of 3-(4-methoxy-benzylamino)-2-methyl-propan-1-ol (4.14 g, 19.8 mmol) in dichloromethane (60 ml) was added triethylamine (2.20 g, 21.8 mmol) and chloroacetyl chloride (2.46 g, 21.8 mmol) at 0° C. The mixture was stirred at 0° C. for one hour and partitioned between 0.5N—HCl and dichloromethane. The organic layer was washed with brine, dried over sodium sulfate and concentrated in vacuo. The residue was dissolved into 2-propanol (66.7 ml), then potassium hydroxide (2.22 g, 39.6 mmol) was added at 0° C. The mixture was stirred for 16 hours and partitioned between saturated ammonium chloride aqueous solution and ethyl acetate. The organic layer was washed with brine, dried over sodium sulfate and concentrated in vacuo. The residue was purified by silica gel column chromatography (eluant: hexane/ethyl acetate=1/1 to 1/3) to afford 4-(4-methoxy-benzyl)-6-methyl-[1,4]oxazepan-3-one as white solid (4.35 g, 88%).

reactant | 3-(4-methoxy-benzylamino)-2-methyl-propan-1-ol | 19.8 mmol, 4.14 g | COC1=CC=C(CNCC(CO)C)C=C1 | C12H19NO2
reactant | triethylamine | 21.8 mmol, 2.20 g | C(C)N(CC)CC | C6H15N
reactant | chloroacetyl chloride | 21.8 mmol, 2.46 g | ClCC(=O)Cl | C2H2Cl2O
reactant | potassium hydroxide | 39.6 mmol, 2.22 g | [OH-].[K+]
solvent | dichloromethane | 60 ml | ClCCl | CH2Cl2
product | 4-(4-methoxy-benzyl)-6-methyl-[1,4]oxazepan-3-one | 4.35 g, 88% | COC1=CC=C(CN2C(COCC(C2)C)=O)C=C1 | C14H19NO3
